US04582833
1-(5-Amino-4H-1,2,4-triazol-3-yl)-4-(4-pyridylmethyl)-piperazine
A 17.7 g (0.1 mole) amount of 1-(4-pyridylmethyl)piperazine (prepared as described above) was dissolved in 25 ml of ethanol and then added dropwise over 30 minutes to a stirred solution of 14.6 g (0.1 mole) of dimethyl cyanodithioiminocarbonate in 125 ml of ethanol. The mixture was refluxed for 20 hours, the evolved gas being led into a sodium hypochlorite trap, for the first 3 hours. Then 6.0 ml (0.12 mole) of hydrazine hydrate was added into the refluxing reaction mixture through the condenser and the mixture was refluxed for 6 hours longer. The mixture was evaporated to a solid residue which was recrystallized with ether and gave 25.8 g of the product of the Example as pale yellow crystals, mp 191°-193° C.

reactant | 1-(4-pyridylmethyl)piperazine | N1=CC=C(C=C1)CN1CCNCC1 | C10H15N3
reactant | dimethyl cyanodithioiminocarbonate | 0.1 mole, 14.6 g | CSC(=NC#N)SC | C4H6N2S2
reactant | hydrazine hydrate | 0.12 mole, 6.0 ml | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 1-(5-Amino-4H-1,2,4-triazol-3-yl)-4-(4-pyridylmethyl)-piperazine | 25.8 g | NC=1NC(=NN1)N1CCN(CC1)CC1=CC=NC=C1 | C12H17N7
